US09403818B2
Preparation of ethyl 8-(4-carbamoyl-phenyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Ethyl 8-(4-carbamoyl-phenyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from ethyl 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (500 mg, 1.54 mmol) and (4-carbamoyl-phenyl)-boronic acid (305.7 mg, 1.85 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (540 mg, 85%).

reactant | ethyl 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 1.54 mmol, 500 mg | ClC=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O)F | C16H15ClFNO3
reactant | (4-carbamoyl-phenyl)-boronic acid | 1.85 mmol, 305.7 mg | C(N)(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
product | ethyl 8-(4-carbamoyl-phenyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 540 mg, 85% | C(N)(=O)C1=CC=C(C=C1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O)F | C23H21FN2O4
